US08349824B2
A mixture of 1,2-diamino-5-fluoro-4-(methoxycarbonyl)pyridinium 2,4,6-trimethylbenzenesulfonate (1.719 g, 4.46 mmol) and benzoyl chloride (1.03 ml, 8.92 mmol) in pyridine (12 ml) is stirred for 20 hours at 100° C. The solvent is evaporated and the residue stirred for 2.5 hours with sat. aqueous ammoniumchloride solution while neutralizing to pH 6-7 with sat. aqueous sodium bicarbonate solution. The solid is collected by filtration, washed with water and dried affording methyl 6-fluoro-2-phenyl-[1,2,4]triazolo[1,5-a]pyridine-7-carboxylate (603 mg, 49.8%) as a light brown solid. Mp.: 162-8° C. MS: m/z=272.2 (M+H+).

reactant | 1,2-diamino-5-fluoro-4-(methoxycarbonyl)pyridinium 2,4,6-trimethylbenzenesulfonate | 4.46 mmol, 1.719 g | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)[O-].N[N+]1=C(C=C(C(=C1)F)C(=O)OC)N
reactant | benzoyl chloride | 8.92 mmol, 1.03 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
product | methyl 6-fluoro-2-phenyl-[1,2,4]triazolo[1,5-a]pyridine-7-carboxylate | 603 mg, 49.8% | FC=1C(=CC=2N(C1)N=C(N2)C2=CC=CC=C2)C(=O)OC | C14H10FN3O2
